US08058441B2
1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-6-(α-toluenesulfonyl)amino-2,2,4-trimethylquinoline
Sulfonylation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with α-toluenesulfonyl chloride (12 mg) and N,N-diisopropylethylamine (22 μl) in tetrahydrofuran (25 ml) was performed according to the acylation method described in example 6.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | α-toluenesulfonyl chloride | 12 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | N,N-diisopropylethylamine | 22 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-4-phenyl-1,2,3,4-tetrahydro-6-(α-toluenesulfonyl)amino-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NS(=O)(=O)CC1=CC=CC=C1)(C)C1=CC=CC=C1)(C)C | C27H30N2O3S
